US04447361
6-Phenyl-11H-pyrido[2,3-b][1,4]benzodiazepine
A mixture of 19.7 g (0.1 mole) of 2-aminobenzophenone and 15.0 g (0.12 mole) of 3-amino-2-chloropyridine was heated under nitrogen atmosphere at 190° C. for 1.75 hr. The mixture was cooled to room temperature and partitioned between 3 N aqueous sodium hydroxide and methylene chloride. The combined methylene chloride extracts were washed with water, dried over magnesium sulfate and evaporated under reduced pressure. The residue, 32.7 g, was dissolved in benzene and chromatographed on a column of florisil packed in benzene, eluting with benzene and 1-2% acetone-benzene mixtures. After evaporation, the solid was crystallized from benzene to give 7.3 g product; m.p. 106°-108° C.

reactant | 2-aminobenzophenone | 0.1 mole, 19.7 g | NC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C13H11NO
reactant | 3-amino-2-chloropyridine | 0.12 mole, 15.0 g | NC=1C(=NC=CC1)Cl | C5H5ClN2
product | 6-Phenyl-11H-pyrido[2,3-b][1,4]benzodiazepine | 7.3 g | C1(=CC=CC=C1)C1=NC2=C(NC3=C1C=CC=C3)N=CC=C2 | C18H13N3
